US03993679
d. 2-Chloro-3,5-diaminobenzonitrile
To a solution of 194 gm. (0.86 mole) of stannous chloride dihydrate in 475 ml. of concentrated hydrochloric acid is added 27.5 gm. (0.12 mole) of 2-chloro-3,5-dinitrobenzonitrile. The temperature rises to 84° and a solution occurs. The mixture is allowed to cool to room temperature, placed in an ice-bath, cooled to 0° and a cold 50% sodium hydroxide solution is added, with cooling, until the mixture is strongly basic. The gelatinous precipitate is removed by filtration. The precipitate is washed thoroughly (4 times) with portions of ethyl acetate. The combined ethyl acetate washes are used to extract the aqueous filtrate. The combined ethyl acetate extracts are dried over anhydrous MgSO4 and the solvent removed by distillation. The residue is recrystallized from ethanol. There is obtained 11.30 gm. (56%) of colorless needles melting at 181°-82°.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-chloro-3,5-dinitrobenzonitrile | 0.12 mole | ClC1=C(C#N)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H2ClN3O4
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-Chloro-3,5-diaminobenzonitrile | ClC1=C(C#N)C=C(C=C1N)N | C7H6ClN3
